US06096781
2-Phenylthio-4'-Methoxyacetophenone
Thiophenol and 2-bromo-4'-methoxyacetophenone were converted to the title compound by the procedure of Preparation 1. mp 83° C.-85° C. EA calculated for C15H14O2S: C, 69.74; H, 5.46. Found: C, 69.52; H, 5.48.

reactant | Thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 2-bromo-4'-methoxyacetophenone | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
product | 2-Phenylthio-4'-Methoxyacetophenone | C1(=CC=CC=C1)SCC(=O)C1=CC=C(C=C1)OC | C15H14O2S
